US07618989B2
A solution of potassium bis(trimethylsilyl)amide (15.02 g, 75.3 mmol) in 80 mL of anhydrous tetrahydrofuran was added under nitrogen dropwise over 30 min to a solution of N-(diphenylmethylene)glycine ethyl ester (18.34 g, 68.6 mmol) in 300 mL of anhydrous tetrahydrofuran at dry ice-acetone temperature. After the addition, the reaction was stirred at dry ice-acetone temperature for 1 h. Iodoethane (6.60 mL, 82.5 mmol) was added over 2 min. The cooling bath was removed and the stirring continued for 3.5 h. Reaction cooled to dry ice-acetone temperature. A solution of potassium bis(trimethylsilyl)amide (15.02 g, 75.3 mmol) in 100 mL of anhydrous tetrahydrofuran was added dropwise over 30 min. After the addition, the reaction was stirred at dry ice-acetone temperature for 1 h. Iodoethane (6.60 mL, 82.5 mmol) was added over 2 min. The cooling bath was removed and the reaction stirred for 17 h. The reaction was concentrated under reduced pressure to remove most of the tetrahydrofuran. The residue was partitioned between methylene chloride and water. The organic layer was separated and the aqueous layer extracted three times with methylene chloride. The combined extracts were washed with saturated sodium chloride, dried (anhydrous MgSO4), filtered and the solvent removed under reduced pressure to give ethyl 2-[(diphenylmethylene)amino]-2-ethylbutanoate (21.50 g, 97%) as a yellow oil, MS (ESI) m/z 324 [M+H]+.

reactant | potassium bis(trimethylsilyl)amide | 75.3 mmol, 15.02 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | N-(diphenylmethylene)glycine ethyl ester | 68.6 mmol, 18.34 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | Iodoethane | 82.5 mmol, 6.60 mL | ICC | C2H5I
reactant | potassium bis(trimethylsilyl)amide | 75.3 mmol, 15.02 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Iodoethane | 82.5 mmol, 6.60 mL | ICC | C2H5I
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl 2-[(diphenylmethylene)amino]-2-ethylbutanoate | 21.50 g, 97% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)(CC)CC | C21H25NO2
